US08865736B2
3-(1-Benzothiophen-5-ylmethoxy)-2,6-difluorobenzenecarboxamide
Synthesised from 2,6-difluoro-3-hydroxybenzenecarboxamide according to Method B, scheme 2. The required building block, 5-(chloromethyl)-1-benzothiophene, was synthesised by chlorination of commercially available 1-benzothiophen-5-ylmethanol with thionyl chloride. Yield 10%, mp 146-148° C., HPLC-MS (method 1): m/z 320 [M+H]+, Rt=3.95 min.

reactant | 2,6-difluoro-3-hydroxybenzenecarboxamide | FC1=C(C(=CC=C1O)F)C(=O)N | C7H5F2NO2
reactant | 5-(chloromethyl)-1-benzothiophene | ClCC=1C=CC2=C(C=CS2)C1 | C9H7ClS
reactant | 1-benzothiophen-5-ylmethanol | S1C=CC2=C1C=CC(=C2)CO | C9H8OS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-(1-Benzothiophen-5-ylmethoxy)-2,6-difluorobenzenecarboxamide | Yield 10% | S1C=CC2=C1C=CC(=C2)COC=2C(=C(C(=CC2)F)C(=O)N)F | C16H11F2NO2S
